US08084448B2
A. Acetic acid 4-benzylsulfanylbutyl Ester
To a suspension of NaH (0.45 g, 60% in mineral oil, 11.1 mmol) in DMF (5 mL) is added benzylmercaptan (1.43 mL, 11.03 mmol) and the resulting yellow solution is stirred at RT for 30 min. The mixture is cooled to 0° C. then acetic acid 4-bromobutyl ester (2.2 g, 11.2 mmol) is added dropwise (exothermic). The mixture is allowed to warm to RT and is quenched with 1N HCl (35 mL). The mixture is extracted with MTBE and the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using EtOAc/hexane (4:1) as eluent to give the title compound as an oil.

reactant | NaH | 11.1 mmol, 0.45 g | [H-].[Na+]
reactant | benzylmercaptan | 11.03 mmol, 1.43 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | acetic acid 4-bromobutyl ester | 11.2 mmol, 2.2 g | BrCCCCOC(C)=O | C6H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Acetic acid 4-benzylsulfanylbutyl Ester | C(C1=CC=CC=C1)SCCCCOC(C)=O | C13H18O2S
